US05348962
4-Bromobenzylalcohol (5.0 g, 26.7 mmol) was dissolved in THF (130 ml) and methyl iodide added (6.7 ml, 107.0 mmol). Sodium hydride (1.20 g of 80% dispersion in oil, 40.1 mmol) was added in two portions while stirring at room temperature under nitrogen. After stirring for 2 hours, the solvents were removed in vacuo and the residue partitioned between water and ether. The water was reextracted with ether and the combined organic fractions were then washed with water and brine before drying (Na2SO4) and evaporating in vacuo to give 4-bromobenzylmethyl ether as an orange liquid (5.3 g, 26.4 mmol). δH (250 MHz, CDCl3) 3.39 (3H, s, CH3), 4.40 (2H, s, CH2), 7.21 (2H, d, J 7.5 Hz, Ar-H), 7.48 (2H, d, J 7.5 Hz, Ar-H).

reactant | 4-Bromobenzylalcohol | 26.7 mmol, 5.0 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | methyl iodide | CI | CH3I
reactant | Sodium hydride | 40.1 mmol, 1.20 g | [H-].[Na+]
reactant | THF | 130 ml | C1CCOC1 | C4H8O
product | 4-bromobenzylmethyl ether | 26.4 mmol, 5.3 g | BrC1=CC=C(CCOCCC2=CC=C(C=C2)Br)C=C1 | C16H16Br2O
